US05488055
A mixture of 1-ethyl-4-chloro-6-acetamido-1H-pyrazolo[3,4-b]quinoline (0.2 g, 0.7 mmol), cyclohexanemethylamine (0.5 ml, 3.5 mmol) and DMSO (3 ml) was heated at 110° C. for 6 hours. The reaction mixture was poured into water (50 ml), extracted with CH2Cl2 (4×25 ml) and the organic layers were combined and evaporated. The residue was slurried in ether and a yellow solid was collected by filtration and recrystallized from ethanol/ethyl acetate to afford 200 mg of 1-ethyl-6-acetamido-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 277°-278° C.

reactant | 1-ethyl-4-chloro-6-acetamido-1H-pyrazolo[3,4-b]quinoline | 0.7 mmol, 0.2 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)NC(C)=O | C14H13ClN4O
reactant | cyclohexanemethylamine | 3.5 mmol, 0.5 ml | C1(CCCCC1)CN | C7H15N
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | 1-ethyl-6-acetamido-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 200 mg | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)NC(C)=O | C21H27N5O
